US06489485B2
A solution of 2-(4-amino-phenyl)-3-cyclopentyl-propionic acid (49 mg, 0.21 mmol) in tetrahydrofuran (5 mL) was treated with N,N-diisopropylethylamine (0.04 mL, 0.25 mmol) and benzoyl chloride (0.02 mL, 0.21 mmol). The reaction mixture was stirred at 25° C. for 24 h. The reaction mixture was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 60/40 hexanes/ethyl acetate) afforded 2-(4-benzoylamino-phenyl)-3-cyclopentyl-propionic acid (41 mg, 57.9%) as a white solid: mp 192.5-194° C.; EI-HRMS m/e calcd for C21H23NO3 (M+) 337.1677, found 337.1670.

reactant | 2-(4-amino-phenyl)-3-cyclopentyl-propionic acid | 0.21 mmol, 49 mg | NC1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C14H19NO2
reactant | N,N-diisopropylethylamine | 0.25 mmol, 0.04 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzoyl chloride | 0.21 mmol, 0.02 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(4-benzoylamino-phenyl)-3-cyclopentyl-propionic acid | 41 mg, 57.9% | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C21H23NO3
